US07705042B2
c) 2-Formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester
To a solution of 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester (0.25 g, 0.74 mmol) (as prepared in the previous step) in THF (3 mL) at −40° C. was added dropwise a solution of 2M i-PrMgCl in THF (0.37 mL, 0.74 mmol). The reaction was allowed to stir for 10 min at −40° C. and then cooled to −78° C. and DMF (0.3 mL) was added. The reaction was allowed to attain RT and stirred for 1 h. The reaction was quenched with saturated NH4Cl, diluted with EtOAc (10 mL) and washed with brine (2×10 mL) and the organic layer was concentrated. The title compound was eluted from a 10-g SPE cartridge (silica) with 50% EtOAc/hexane to give 0.11 g (53%) of a colorless oil. Mass spectrum (ESI, m/z): Calcd. for C12H20N2O4Si, 285.1 (M+H), found 284.7.

reactant | 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester | 0.74 mmol, 0.25 g | COC(=O)C=1N=C(N(C1)COCC[Si](C)(C)C)Br | C11H19BrN2O3Si
reactant | i-PrMgCl | 2M | C(C)(C)[Mg]Cl
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.74 mmol, 0.37 mL | C1CCOC1 | C4H8O
product | 2-Formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester | 0.11 g, 53% | COC(=O)C=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C12H20N2O4Si
